US04870175
6-[4-(1-cyclohexyl tetrazole-5-yl)-butoxy]-2-oxo-1,2,3,4-tetrahydroquinoxaline (compound 931):
N-[5-{4-(1-cyclohexyl tetrazole-5-yl) butoxy}-2-nitropheny] amino acetic acid methyl ester 1.9 g (4.4 mM) and 10% Pd/C catalyst 1.9 g were added to ethanol 500 ml.

reactant | N-[5-{4-(1-cyclohexyl tetrazole-5-yl) butoxy}-2-nitropheny] amino acetic acid methyl ester | 4.4 mM, 1.9 g | COC(CNC1=C(C=CC(=C1)OCCCCC1=NN=NN1C1CCCCC1)[N+](=O)[O-])=O | C20H28N6O5
catalyst | Pd/C | 1.9 g | [Pd] | Pd
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 6-[4-(1-cyclohexyl tetrazole-5-yl)-butoxy]-2-oxo-1,2,3,4-tetrahydroquinoxaline | C1(CCCCC1)N1N=NN=C1CCCCOC=1C=C2NCC(NC2=CC1)=O | C19H26N6O2
